US05631373
5-Acetamido-6-nitroindan.
To a solution of 5.59 g (31.9 mmol) of 5-acetamidoindan in 55 mL of H2SO4 kept in an ice-bath was added portionwise 3.62 g of KNO3 (35.8 mmol). The solution was stirred in the ice-bath for 2 h and at room temperature overnight. It was added to 500 mL of ice-water and stirred for 1 h. The precipitate was filtered, washed with water, and dried to leave a black solid, which was separated by chromatography (silica gel, eluted with hexane/ethyl acetate=10:1) to give 1.06 g (15%) of a yellow solid. 1H NMR (CDCl3), 2.142 (m, 2), 2.279 (s, 3), 3.00 (m, 4), 8.44 (s, 1), 8.575 (s, 1), 10.389 (s, 1).

reactant | 5-acetamidoindan | 31.9 mmol, 5.59 g | C(C)(=O)NC=1C=C2CCCC2=CC1 | C11H13NO
reactant | KNO3 | 35.8 mmol, 3.62 g | [N+](=O)([O-])[O-].[K+]
solvent | H2SO4 | 55 mL | OS(=O)(=O)O | H2O4S
product | 5-Acetamido-6-nitroindan | 1.06 g, 15% | C(C)(=O)NC=1C=C2CCCC2=CC1[N+](=O)[O-] | C11H12N2O3
